US07732461B2
(f) 1,1-Dimethylethyl {1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate
A solution of 1,1-dimethylethyl (1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxypropyl}-4-piperidinyl)carbamate (18.28 g, containing some non-alcohol impurity and a little MeOH, judged to contain 40 mmol alcohol-containing compounds) in dichloromethane (180 ml) was stirred under argon, ice-cooled and treated with triethylamine (11.1 ml, 80 mmol) and methanesulfonic anhydride (8.7 g, 50 mmol). After 1 hour the solution was heated to reflux for 2 days, evaporated and redissolved in chloroform (180 ml). This solution was heated under argon at 55° C. for 3 days, cooled, washed with aqueous sodium bicarbonate and the aqueous twice re-extracted with chloroform. The combined organic phases were dried and evaporated. Chromatography of the residue (methanol/dichloromethane gradient) and rechromatography of some impure fractions gave the product (13.35 g, containing 12.5% dichloromethane by weight).

reactant | 1,1-dimethylethyl (1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxypropyl}-4-piperidinyl)carbamate | FC=1C=NC2=CC=C(N=C2C1C(CN1CCC(CC1)NC(OC(C)(C)C)=O)CO)OC | C22H31FN4O4
reactant | MeOH | CO | CH4O
reactant | triethylamine | 80 mmol, 11.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 50 mmol, 8.7 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl {1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate | FC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NC(OC(C)(C)C)=O)=O | C21H27FN4O3
